### PR TITLE
[Merged by Bors] - feat: notation for variance according to a measure

### PR DESCRIPTION
**Pull request by YaelDillies**
The convention of using `X ; μ` to denote that `X` is sampled with measure `μ` comes from PFR.

[Zulip](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/.60MeasureSpace.60.20vs.20.60Measure.60.20in.20.60ProbabilityTheory.2F.60/near/476702131)

From my PhD (LeanCamCombi)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors d+

Since the commit message says that this is from your PhD, you should also probably add that this notation follows a convention introduced in PFR, and that there was discussion on zulip about it.

File: Mathlib/Probability/Variance.lean [hunk 1]
```diff
@@ -151,7 +172,9 @@ theorem evariance_mul (c : ℝ) (X : Ω → ℝ) (μ : Measure Ω) :
   rw [mul_comm]
   simp_rw [← smul_eq_mul, ← integral_smul_const, smul_eq_mul, mul_comm]
 
-scoped notation "eVar[" X "]" => ProbabilityTheory.evariance X MeasureTheory.MeasureSpace.volume
+lemma variance_eq_integral (hX : AEMeasurable (fun ω ↦ (‖X ω - ∫ ω', X ω' ∂μ‖₊ : ℝ≥0∞) ^ 2) μ) :
+    Var[X ; μ] = ∫ ω, (X ω - μ[X]) ^ 2 ∂μ := by
+  simp [variance, evariance, ← integral_toReal hX (by simp [← ENNReal.coe_pow])]
```
Comment (RemyDegenne) [inline Mathlib/Probability/Variance.lean:177]: This lemma seems out of place in this PR, which should be only about the new notations. Could you please remove it?

Comment (YaelDillies) [reply Mathlib/Probability/Variance.lean:177]: I meant to ask you: do you think this lemma is worth having? The measurability condition is a bit weird

**Comment by YaelDillies** [comment]
> Since the commit message says that this is from your PhD, you should also probably add that this notation follows a convention introduced in PFR, and that there was discussion on zulip about it.

You're right. I was following the PFR convention, but I completely forgot that this precise notation for variance was under discussion.

**Comment by YaelDillies** [comment]
bors merge

File: Mathlib/Probability/Variance.lean (hunk 1 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Variance.lean]: Perhaps simply replace the measurability condition by `AEMeasurable X µ`? It seems that the only way we will ever prove `AEMeasurable (fun ω ↦ (‖X ω - ∫ ω', X ω' ∂μ‖₊ : ℝ≥0∞) ^ 2) μ` will be as a consequence of that.

Comment (YaelDillies) [reply Mathlib/Probability/Variance.lean]: I'm now adding this lemma in #20814
